US04113940
A suspension of 2,2,2-trichloroethyl-2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (6.9 g) in dried dichloromethane (70 ml) was homogenized by adding triethylamine (1.48 g) and N,N-dimethylaniline (0.44 g) under stirring and ice-cooling and by stirring for 30 minutes at room temperature. A solution of triethylamine salt of mixed anhydride of 2-sulfo-2-phenylacetic acid with ethoxycarbonic acid (8.5 g) in dried dichloromethane (60 ml) was dropwise added over about 30 minutes under stirring and cooling at -20° to -25° C. to the above-mentioned solution, and the mixture was stirred for 1.5 hours at -10° to -15° C. and for 1 hour at room temperature. After the reaction, dichloromethane was removed at low temperature, and the residue was dissolved in ethyl acetate, after which the solution was washed with cooled 5% hydrochloric acid and three times with water, and then dried. The solvent was distilled off at low temperature to give 2,2,2-trichloroethyl 2-methyl-7-(2-sulfo-2-phenylacetamido)-3-cephem-4-carboxylate (11.5 g), amorphous.

reactant | 2,2,2-trichloroethyl-2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 6.9 g | Cl.ClC(COC(=O)C1=CC(S[C@H]2N1C(C2N)=O)C)(Cl)Cl
reactant | N,N-dimethylaniline | 0.44 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-sulfo-2-phenylacetic acid | S(=O)(=O)(O)C(C(=O)O)C1=CC=CC=C1 | C8H8O5S
reactant | ethoxycarbonic acid | 8.5 g | C(C)OOC(O)=O | C3H6O4
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 1.48 g | C(C)N(CC)CC | C6H15N
product | 2,2,2-trichloroethyl 2-methyl-7-(2-sulfo-2-phenylacetamido)-3-cephem-4-carboxylate | 11.5 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C2=CC=CC=C2)S(=O)(=O)O)=O)=O | C18H17Cl3N2O7S2
